US04349674
N,N'-Bis(2-propenyl)carbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride
2-Chloro-3-methylquinoxaline (3.56 g., 0.02 mole) was dissolved in 50 ml. of methanol, treated with Norit and filtered. The filtrate was added to 3.125 g. (0.02 mole) of 1,3-diallylthiourea in 50 ml. of methanol. The mixture was stirred at room temperature for 31/2 hours, then freed of solvent. Acetone was added to the residue and the solution again freed of solvent. The residue was triturated with ether and with acetone, filtered, washed and dried to give 4.12 g. (61.5% yield), m.p. 90°-93° C.

reactant | 2-Chloro-3-methylquinoxaline | 0.02 mole, 3.56 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | methanol | CO | CH4O
reactant | Norit | C | CH4
reactant | 1,3-diallylthiourea | 0.02 mole | C(C=C)NC(=S)NCC=C | C7H12N2S
solvent | Acetone | CC(=O)C | C3H6O
product | N,N'-Bis(2-propenyl)carbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride | 61.5% yield | Cl.CC=1C(=NC2=CC=CC=C2N1)SC(NCC=C)=NCC=C | InChI=1S/C16H18N4S.ClH/c1-4-10-17-16(18-11-5-2)21-15-12(3)19-13-8-6-7-9-14(13)20-15;/h4-9H,1-2,10-11H2,3H3,(H,17,18);1H
